US06747023B1
5-(t-Butoxycarbonyl)-2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine
In methylene chloride (15 ml), 2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine hydrochloride (780 mg) was suspended, followed by the addition of a saturated aqueous solution (15 ml) of sodium bicarbonate and di-t-butyl dicarbonate (506 ml) at room temperature. The resulting mixture was stirred for 1 hour. To the reaction mixture, water (30 ml) and methylene chloride (30 ml) were added to separate the water layer. The resulting water layer was extracted with methylene chloride (2×20 ml). The organic layers were combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue thus obtained was purified by chromatography on a silica gel column (75 g of silica gel, methylene chloride:acetone=8:1→2:1). The resxulting white solid was dissolved in a 1N aqueous hydrochloride in ethanol. After concentration of the resulting solution, water was added to the concentrate and the mixture was concentrated again, whereby the title compound (641 mg) was obtained as a white solid.

reactant | 2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine hydrochloride | 780 mg | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(=O)C1=CC=2CNCCC2N1
reactant | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 506 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 30 ml | O | H2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 5-(t-Butoxycarbonyl)-2-[[4-[(6-chloronaphthalen-2-yl)sulfonyl]piperazin-1-yl]carbonyl]-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine | 641 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)NC(=C2)C(=O)N2CCN(CC2)S(=O)(=O)C2=CC1=CC=C(C=C1C=C2)Cl | C27H31ClN4O5S
